US07750038B2
5-Bromoindoline (0.59 g, 3.0 mmol), 1-methyl-5-cyano-2-pyrroleboronic acid (0.54 g, 3.6 mmol), potassium fluoride (KF—0.57 g, 9.9 mmol), and Pd2(dba)3 (72 mg, 0.075 mmol) were added to a round bottom flask under nitrogen. The flask was sealed and purged with nitrogen for 5 minutes. Tetrahydrofuran (THF—7.5 mL) was added and the mixture was purged with nitrogen for an additional 5 minutes. A solution of tri-t-butylphosphine (10% wt in hexanes, 0.45 mL, 0.15 mmol) was added via syringe and the mixture was stirred vigorously at 25° C. for 5 hours. The mixture was diluted with ethyl acetate, filtered through a plug of silica gel, washed through with additional ethyl acetate and concentrated to give a crude brown/black semi-solid. Purification was performed using Isco chromatography (the Redisep® column, silica, gradient 10-60% ethyl acetate in hexane). Further purification via Isco chromatography (the Redisep® column, silica, gradient 50% hexane:45% methylene chloride:5% ethyl acetate) afforded 5-(2,3-dihydro-1H-indol-5-yl)-1-methyl-1H-pyrrole-2-carbonitrile (0.24 g) as a white solid. HPLC purity 100.0% at 210-370 nm, 8.5 min.; the Xterra® column RP18, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammonium formate buffer pH=3.5 acetonitrile+MeOH) for 10 minutes, hold 4 minutes. HRMS: calcd for C14H13N3+H+, 224.11822; found (ESI, [M+H]+), 224.1188;

reactant | 5-Bromoindoline | 3.0 mmol, 0.59 g | BrC=1C=C2CCNC2=CC1 | C8H8BrN
reactant | 1-methyl-5-cyano-2-pyrroleboronic acid | 3.6 mmol, 0.54 g | CN1C(=CC=C1C#N)B(O)O | C6H7BN2O2
reactant | potassium fluoride | 9.9 mmol, 0.57 g | [F-].[K+]
catalyst | Pd2(dba)3 | 0.075 mmol, 72 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(2,3-dihydro-1H-indol-5-yl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.24 g | N1CCC2=CC(=CC=C12)C1=CC=C(N1C)C#N | C14H13N3
